US08486918B2
4-(5-((3-Chlorophenyl)((3,4-dimethylphenyl)thio)methyl)-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenol
2-(3-Chlorophenyl)-2-((3,4-dimethylphenyl)thio)acetic acid (3.00 g, 9.78 mmol) was dissolved in dichloroethane, then carbonyldiimidazole (2.00 g, 12.35 mmol) was added, the resulting reaction mixture was stirred for 10 minutes, N′,4-dihydroxy-3,5-dimethylbenzimidamide crude (prepared according to Diana, Guy D et al. Journal of Medicinal Chemistry, 1994, vol. 37 (15) p. 2421-2436) (1.80 g, 9.99 mmol) was added. The reaction mixture was stirred for 30 minutes, then concentrated. Flash chromatography (40% EtOAc/Hex) gave the desired adduct which was dissolved in xylene (10 mL) and heated to 125° C. for 30 minutes, then cooled. Flash chromatography (20% EtAc/Hex) gave Intermediate 4.

reactant | 2-(3-Chlorophenyl)-2-((3,4-dimethylphenyl)thio)acetic acid | 9.78 mmol, 3.00 g | ClC=1C=C(C=CC1)C(C(=O)O)SC1=CC(=C(C=C1)C)C | C16H15ClO2S
reactant | carbonyldiimidazole | 12.35 mmol, 2.00 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N′,4-dihydroxy-3,5-dimethylbenzimidamide | ON=C(C1=CC(=C(C(=C1)C)O)C)N | C9H12N2O2
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 4-(5-((3-Chlorophenyl)((3,4-dimethylphenyl)thio)methyl)-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenol | ClC=1C=C(C=CC1)C(C1=NC(=NO1)C1=CC(=C(C(=C1)C)O)C)SC1=CC(=C(C=C1)C)C | C25H23ClN2O2S
